US07094801B2
Ex-29C: To a solution of 2-hydroxy-4-methoxy-5-thiophen-2-yl-benzaldehyde from Ex-29B (0.10 g, 0.43 mmol) in N,N-dimethylformamide (3 mL) was added potassium carbonate (0.18 g, 1.3 mmol) and the resulting yellow slurry was heated to 80° C. Once at 80° C., 1-bromo-2-(2-methoxyethoxy)ethane (0.24 g, 1.3 mmol) was added dropwise in three equal portions with stirring at 1 h intervals. After the last addition, the reaction was stirred for an additional 1 h at 80° C. and cooled to room temperature. The mixture was diluted with water (15 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers was sequentially washed with a saturated ammonium chloride solution (1×15 mL), water (1×15 mL), and brine (1×15 mL), dried over sodium sulfate, and concentrated to a brown oil. Silica gel chromatography (ethyl acetate/hexanes, 4:1) afforded 0.13 g (87%) of 4-methoxy-2-[2-(2-methoxyethoxy)ethoxy]-5-thiophen-2-yl-benzaldehyde as a pale yellow oil. 1H-NMR (300 MHz, CDCl3) δ 10.38 (s, 1H), 8.12 (s, 1H), 7.44 (dd, 1H), 7.30 (dd, 1H), 7.07 (dd, 1H), 6.57 (s, 1H), 4.33 (t, 2H), 4.00 (s, 3H), 3.94 (t, 2H), 3.74 m, 2H), 3.59 (m, 2H), 3.40 (s, 3H). HRMS (EI) Calcd. for C17H20O5S: 336.1031. Found: 336.1027.

reactant | 2-hydroxy-4-methoxy-5-thiophen-2-yl-benzaldehyde | OC1=C(C=O)C=C(C(=C1)OC)C=1SC=CC1 | C12H10O3S
reactant | potassium carbonate | 1.3 mmol, 0.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-(2-methoxyethoxy)ethane | 1.3 mmol, 0.24 g | BrCCOCCOC | C5H11BrO2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 15 mL | O | H2O
product | 4-methoxy-2-[2-(2-methoxyethoxy)ethoxy]-5-thiophen-2-yl-benzaldehyde | 0.13 g, 87% | COC1=CC(=C(C=O)C=C1C=1SC=CC1)OCCOCCOC | C17H20O5S
